US04806650
Preparation of N-dichloroacetyl-6-amino-6-deoxy-L-sorbose.
To a suspension of 40 g of Gluconobacter oxidans ssp. suboxidans (DSM 50049) in 1 l of tap water, brought to pH 4.5 with phosphoric acid, are added at 32° C. and 700 rpm with venting of 3 l of air/hour 20 g of N-dichloroacetylaminosorbitol. The reaction has ended after 10 hours, and the cells are then centrifuged off, washed twice with 100 ml of methanol each time and discarded. The methanol extracts are combined with the aqueous supernatant and concentrated to dryness in vacuo.

reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | N-dichloroacetylaminosorbitol | 20 g | ClC(C(=O)NC(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)Cl | C8H15Cl2NO7
solvent | water | O | H2O
product | N-dichloroacetyl-6-amino-6-deoxy-L-sorbose | ClC(C(=O)NC[C@@H]([C@H]([C@@H](C(CO)=O)O)O)O)Cl | C8H13Cl2NO6
